US08034623B2
2-(2,2,6,6-Tetramethylpiperidin-1-yloxymethyl)-benzoic acid methyl ester (946 mg, 3.1 mmol) was diluted in THF/methanol (1:1, 10 mL). To the solution was added 25% NaOH (aq) (5 mL) at room temperature. After 24 h, the reaction was acidified with 10% HCl and extracted with CH2Cl2 (×3). The combined extracts were washed with brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The crude product was purified by flash chromatography (Hex/EtOAc=1:1) to give 2-(2,2,6,6-tetramethylpiperidin-1-yloxymethyl)-benzoic acid as a white solid (697 mg, 77%). Rf=0.6 (Hex:EtOAc=1:1); 1H NMR (300 MHz, CDCl3): δ 8.01 (d. J=7.8 Hz, 1H), 7.59 (d, J=7.5 Hz, 1H), 7.53 (t, J=7.2 Hz, 1H), 7.39 (t, J=7.5 Hz, 1H), 5.27 (s, 2H), 1.69-1.46 (br m, 6H), 1.22 (s, 12H): 2-(2,2,6,6-Tetramethylpiperidin-1-yloxymethyl)-benzoic acid (697 mg, 2.39 mmol) and Nhydroxysuccinimid (330 mg, 2.87 mmol) were dissolved in dry CH2Cl2 (10 mL) under argon atmosphere. A solution of N,N′-dicyclohexylcarbodiimide (DCC) (592 mg, 2.87 mmol) was slowly added to the solution at 0° C. After 10 h of stirring, the reaction mixture was filtered through a short pad of silica gel with CH2Cl2 and the filtrate was concentrated to give a crude product. Purification of the crude product by column chromatography on silica gel (Hex:EtOAc=2:1) gave the final product as a white solid (680 mg, 73%). mp=145° C.; Rf=0.5 (Hex:EtOAc=2:1); 1H NMR (500 MHz, CDCl3): δ 8.17 (d, J=7.8 Hz, 1H), 7.92 (d, J=7.8 Hz, 1H), 7.68 (t, J=7.8 Hz, 1H), 7.38 (t, J=7.5 Hz, 1H), 5.22 (s, 2H), 2.90 (s, 4H), 1.48 (br s, 4H), 1.36 (br s, 1H), 1.32 (br s. 1H), 1.19 (s, 6H), 1.17 (s, 6H); 13C NMR (125 MHz, CDCl3) 169.48, 161.45, 143.56, 134.61, 131.29, 127.39, 126.78, 121.73, 76.07, 60.14, 39.86, 33.07, 25.86, 20.64, 17.29; IR (neat): 2932 (w), 1767 (m), 1741 (s), 1468 (w), 1375 (w), 1229 (m), 1207 (s), 1132 (w), 1071 (m), 983 (S), 843 (w), 737 (s), 647 (m) cm-1; Anal. Calcd for C21H28N2O5: C. 64.93; H, 7.27; N, 7.21, Found; C. 64.95; H, 7.15; N, 7.10.

reactant | 2-(2,2,6,6-Tetramethylpiperidin-1-yloxymethyl)-benzoic acid methyl ester | 3.1 mmol, 946 mg | COC(C1=C(C=CC=C1)CON1C(CCCC1(C)C)(C)C)=O | C18H27NO3
reactant | NaOH | 5 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF methanol | 10 mL | C1CCOC1.CO
product | 2-(2,2,6,6-tetramethylpiperidin-1-yloxymethyl)-benzoic acid | 697 mg, 77% | CC1(N(C(CCC1)(C)C)OCC1=C(C(=O)O)C=CC=C1)C | C17H25NO3
